### PR TITLE
[Merged by Bors] - feat: congruence lemmas for divisors of meromorphic functions

### PR DESCRIPTION
**Pull request by kebekus**
Deliver on open TODO and state elementary congruence lemmas for divisors of meromorphic functions.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 1]
```diff
@@ -259,6 +259,39 @@ variable {s t : 𝕜 → 𝕜} {f g : 𝕜 → E} {U : Set 𝕜}
   (hs : MeromorphicOn s U) (ht : MeromorphicOn t U)
   (hf : MeromorphicOn f U) (hg : MeromorphicOn g U)
 
+/--
+If `f` is meromorphic on `U`, if `g` agrees with `f` on a codiscrete subset of `U` and outside of
+`U`, then `g` is also meromorphic on `U`.
+-/
+theorem congr_codiscreteWithin (hf : MeromorphicOn f U) (h₁ : f =ᶠ[codiscreteWithin U] g)
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/Basic.lean:266]:
```suggestion
theorem congr_codiscreteWithin_of_eqOn_compl (hf : MeromorphicOn f U) (h₁ : f =ᶠ[codiscreteWithin U] g)
```
To me, the main lemma is the next one, so I'd take a more complicated name for this one, to free the better name `congr_codiscreteWithin` for the other one.

File: Mathlib/Analysis/Meromorphic/Divisor.lean [hunk 2]
```diff
@@ -67,6 +70,47 @@ Simplifier lemma: on `U`, the divisor of a function `f` that is meromorphic on `
...
 
+/-!
+## Congruence Lemmas
+-/
+
+/--
+If `f₁` is meromorphic on `U`, if `f₂` agrees with `f₁` on a codiscrete subset of `U` and outside of
+`U`, then `f₁` and `f₂` induce the same divisors on `U`.
+-/
+theorem divisor_congr_codiscreteWithin {f₁ f₂ : 𝕜 → E} (hf₁ : MeromorphicOn f₁ U)
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/Divisor.lean:81]:
```suggestion
theorem divisor_congr_codiscreteWithin_of_eqOn_compl {f₁ f₂ : 𝕜 → E} (hf₁ : MeromorphicOn f₁ U)
```
Same reason as above.

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 3]
```diff
@@ -259,6 +259,39 @@ variable {s t : 𝕜 → 𝕜} {f g : 𝕜 → E} {U : Set 𝕜}
...
+    disjoint_principal_right] at h₁
+  filter_upwards [h₁ x hx] with a ha
+  simp at ha
+  tauto
+
+/--
+If `f` is meromorphic on an open set `U`, if `g` agrees with `f` on a codiscrete subset of `U`, then
+`g` is also meromorphic on `U`.
+-/
+theorem congr_codiscreteWithin_open (hf : MeromorphicOn f U) (h₁ : f =ᶠ[codiscreteWithin U] g)
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/Basic.lean:281]:
```suggestion
theorem congr_codiscreteWithin (hf : MeromorphicOn f U) (h₁ : f =ᶠ[codiscreteWithin U] g)
```

File: Mathlib/Analysis/Meromorphic/Divisor.lean [hunk 4]
```diff
@@ -67,6 +70,47 @@ Simplifier lemma: on `U`, the divisor of a function `f` that is meromorphic on `
...
+      disjoint_principal_right] at h₁
+    filter_upwards [h₁ x hx] with a ha
+    simp at ha
+    tauto
+
+/--
+If `f₁` is meromorphic on an open set `U`, if `f₂` agrees with `f₁` on a codiscrete subset of `U`,
+then `f₁` and `f₂` induce the same divisors on`U`.
+-/
+theorem divisor_congr_codiscreteWithin_open {f₁ f₂ : 𝕜 → E} (hf₁ : MeromorphicOn f₁ U)
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/Divisor.lean:98]:
```suggestion
theorem divisor_congr_codiscreteWithin {f₁ f₂ : 𝕜 → E} (hf₁ : MeromorphicOn f₁ U)
```

**Comment by kebekus** [comment]
@sgouezel Thanks for taking the time to look at this!

File: Mathlib/Analysis/Meromorphic/Divisor.lean [hunk 5]
```diff
@@ -66,6 +68,47 @@ Simplifier lemma: on `U`, the divisor of a function `f` that is meromorphic on `
...
+
+/--
+If `f₁` is meromorphic on an open set `U`, if `f₂` agrees with `f₁` on a codiscrete subset of `U`,
+then `f₁` and `f₂` induce the same divisors on`U`.
+-/
+theorem divisor_congr_codiscreteWithin {f₁ f₂ : 𝕜 → E} (hf₁ : MeromorphicOn f₁ U)
+    (h₁ : f₁ =ᶠ[Filter.codiscreteWithin U] f₂) (h₂ : IsOpen U) :
+    divisor f₁ U = divisor f₂ U := by
+  ext x
+  by_cases hx : x ∈ U <;> simp [hf₁, hf₁.congr_codiscreteWithin h₁ h₂, hx]
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/Divisor.lean:100]: ditto

File: Mathlib/Analysis/Meromorphic/Divisor.lean [hunk 6]
```diff
@@ -66,6 +68,47 @@ Simplifier lemma: on `U`, the divisor of a function `f` that is meromorphic on `
...
+
+/--
+If `f₁` is meromorphic on `U`, if `f₂` agrees with `f₁` on a codiscrete subset of `U` and outside of
+`U`, then `f₁` and `f₂` induce the same divisors on `U`.
+-/
+theorem divisor_congr_codiscreteWithin_of_eqOn_compl {f₁ f₂ : 𝕜 → E} (hf₁ : MeromorphicOn f₁ U)
+    (h₁ : f₁ =ᶠ[Filter.codiscreteWithin U] f₂) (h₂ : Set.EqOn f₁ f₂ Uᶜ) :
+    divisor f₁ U = divisor f₂ U := by
+  ext x
+  by_cases hx : x ∈ U <;> simp [hf₁, hf₁.congr_codiscreteWithin_of_eqOn_compl h₁ h₂, hx]
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor.lean]: Fixed. To avoid overly long lines, I formulated the two invocations of `simp` separately.

File: Mathlib/Analysis/Meromorphic/Divisor.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor.lean]: Fixed. To avoid overly long lines, I formulated the two invocations of `simp` separately.

**Comment by sgouezel** [comment]
bors r+
Thanks!

**Comment by kebekus** [comment]
@sgouezel Thanks for helping!
